US09382188B2
step 1) 1-(2′-fluoro-5′-methoxy-4-((4-methoxybenzyl)oxy)biphenyl-2-yl)-2,2-dimethylpropan-1-one
Under a nitrogen atmosphere, to a solution of ethyl 2′-fluoro-5′-methoxy-4-((4-methoxybenzyl)oxy)biphenyl-2-carboxylate (524 mg) in THF (10 mL) was added a solution (1.6 M, 1.6 mL) of tert-butyllithium in pentane at −78° C., and the mixture was stirred at −78° C. for 30 min. To the reaction mixture was added saturated aqueous ammonium chloride solution, and the mixture was extracted with ethyl acetate. The extract was washed with saturated brine, and dried over anhydrous sodium sulfate. The solvent was evaporated under reduced pressure, and the residue was purified by silica gel column chromatography (ethyl acetate/hexane) to give the title compound (268 mg) as a colorless oil.

reactant | ethyl 2′-fluoro-5′-methoxy-4-((4-methoxybenzyl)oxy)biphenyl-2-carboxylate | 524 mg | FC1=C(C=C(C=C1)OC)C=1C(=CC(=CC1)OCC1=CC=C(C=C1)OC)C(=O)OCC | C24H23FO5
reactant | tert-butyllithium | 1.6 M, 1.6 mL | C(C)(C)(C)[Li]
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | pentane | CCCCC | C5H12
product | 1-(2′-fluoro-5′-methoxy-4-((4-methoxybenzyl)oxy)biphenyl-2-yl)-2,2-dimethylpropan-1-one | 268 mg | FC1=C(C=C(C=C1)OC)C1=C(C=C(C=C1)OCC1=CC=C(C=C1)OC)C(C(C)(C)C)=O | C26H27FO4
